US06207365B1
Synthesis of 3-(4-diethylamino-2-hydroxyphenyl)-2-propenic acid ethyl ester
4-Diethylaminosalicylaldehyde (25.0 g, 129 mmol; Tokyo Kasei Ind. Co. Ltd.) and carboxymethylidene-triphenylphosphorane (49.0 g, 140 mmol; Aldrich Inc.) were stirred in 300 ml of anhydrous benzene at room temperature overnight under a nitrogen atmosphere and the reaction was allowed to complete, during which period the reaction was conducted in a dark room. Then, the solvent was removed in vacuo, and the resulting crude product was crudely purified by silica gel column chromatography (hexane/ethyl acetate 1:1 as a developing solvent) to give a mixture of cis- and trans-isomers. Further, this mixture was purified by column chromatography using aminopropyl-modified silica gel (300 g of NHDM-1020 silica gel available from Fuji Silicia Chemicals Co. Ltd; n-hexane/ethyl acetate 2:1 which elutes only the cis-isomer and chloroform/methanol 4:1 which elutes only the trans-isomer) to give 23.7 g of the desired product in 70% yield.

reactant | 4-Diethylaminosalicylaldehyde | 129 mmol, 25.0 g | C(C)N(C=1C=C(C(C=O)=CC1)O)CC | C11H15NO2
reactant | carboxymethylidene-triphenylphosphorane | 140 mmol, 49.0 g | C(=O)(O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17O2P
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 3-(4-diethylamino-2-hydroxyphenyl)-2-propenic acid ethyl ester | 23.7 g, 70% yield | C(C)OC(C=CC1=C(C=C(C=C1)N(CC)CC)O)=O | C15H21NO3
